US08536176B2
(3) tert-Butyl 4-[2-(4-methanesulfonylbenzoylamino)pyridin-5-yl]piperidine-1-carboxylate
To a solution of tert-butyl 4-[2-(4-methanesulfonylbenzoylamino)pyridin-5-yl]-3,6-dihydro-2H-pyridine-1-carboxylate (83 mg, 0.18 mmol) in methanol (2 mL) was added 10% palladium-carbon (8.3 mg). The mixture was hydrogenated at room temperature for 4 hours and filtered through Celite pad. The filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=2/3) to give the title compound as a white crystal (47 mg, yield 57%).

reactant | tert-butyl 4-[2-(4-methanesulfonylbenzoylamino)pyridin-5-yl]-3,6-dihydro-2H-pyridine-1-carboxylate | 0.18 mmol, 83 mg | CS(=O)(=O)C1=CC=C(C(=O)NC2=NC=C(C=C2)C=2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C23H27N3O5S
solvent | methanol | 2 mL | CO | CH4O
catalyst | palladium-carbon | 8.3 mg | [C].[Pd]
product | tert-Butyl 4-[2-(4-methanesulfonylbenzoylamino)pyridin-5-yl]piperidine-1-carboxylate | 47 mg, yield 57% | CS(=O)(=O)C1=CC=C(C(=O)NC2=NC=C(C=C2)C2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C23H29N3O5S
